US04122186
4-Amino-phenylcarbamoyl-acetohydroxamic acid hydrochloride Code No. CRL 40.472
A mixture of 17.8 g (0.08 mol) of ethyl 4-amino-phenylcarbamoylacetate, 7 g (0.1 mol) of hydroxylamine hydrochloride and 4.6 g (0.2 gram atom) of sodium in 250 ml of anhydrous methanol is left in contact for 2 hours at 20° C. The methanol is evaporated in vacuo, the residue is taken up in 100 ml of water and acidified with 6 N HCl and the product is filtered off. Recrystallisation from 80 ml of water gives CRL 40,472. Melting point 164°-165° C. (with decomposition). Yield: 64%.

reactant | ethyl 4-amino-phenylcarbamoylacetate | 0.08 mol, 17.8 g | NC1=CC=C(C=C1)NC(=O)CC(=O)OCC | C11H14N2O3
reactant | hydroxylamine hydrochloride | 0.1 mol, 7 g | Cl.NO
reactant | sodium | 4.6 g | [Na] | Na
solvent | methanol | 250 ml | CO | CH4O
product | 4-Amino-phenylcarbamoyl-acetohydroxamic acid hydrochloride | Yield: 64% | Cl.NC1=CC=C(C=C1)NC(=O)CC(=O)NO | InChI=1S/C9H11N3O3.ClH/c10-6-1-3-7(4-2-6)11-8(13)5-9(14)12-15;/h1-4,15H,5,10H2,(H,11,13)(H,12,14);1H
